US05183653
3-Amino-5-carboxyphenylboronic Acid
A solution of 3-nitro-5-carboxyphenylboronic acid (3.3 g, 0.016 mol) in absolute ethanol (25 ml) was hydrogenated in the presence of Raney Nickel (1 g) at 50 lbs per square inch for 4 hours in a Parr shaker. The catalyst was removed by filtration and the solvent was removed on a rotary evaporator. The solid obtained was recrystallized from water. M.P. 210°-12° C.

reactant | 3-nitro-5-carboxyphenylboronic acid | 0.016 mol, 3.3 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)O)B(O)O | C7H6BNO6
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Raney Nickel | 1 g | [Ni] | Ni
product | 3-Amino-5-carboxyphenylboronic Acid | NC=1C=C(C=C(C1)C(=O)O)B(O)O | C7H8BNO4
